data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3690,"CCOC(=O)N[N-:1]C(=O)OCC.N#CC(O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,474,"C1=CC([O+:1]=[C:2]2CCCCC2)=C([OH:3])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7831,"CS(=O)(=O)[O-:1].C[Si:2](C)(C)O|(1, 2)"
train,pmechdb_split_0,0,9059,"CC[O+:1](C(O)(O)C(O)C1=CC=CC=C1)[H:2].CC[OH:3].O=S(=O)([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,869,"CO[C:1]1(O)[NH:2]CCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,351,"CO[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,3181,"CC(C)=CCC[CH:1]=[C:2](C)C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7574,"CCOC(=O)N(CC1=CC=CC=C1)C(C=[C+:1][CH2:2][Si-:3](C)(C)(C)[O+](CC)[Al-]([Cl])([Cl])[CH2]C)C1=CC=CC=C1|((3, 2), 1)"
train,pmechdb_split_0,0,2622,"C[CH:1]=[O:2].C[N:3](C)C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10302,"CN[S+:1](C)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,7706,"CCOCC.CO.COC1=C2C(=CC=C1)C(OC)=C1CC(CCOCC3=CC=CC=C3)OC[C:1]1([H:2])[C:3]2=[O+:4]C.C[O:5][B-](F)(F)F|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9357,"CC1OC(CO[P:1]([O-])(OC(=O)C([NH3+])CCC(=O)[O-])([O-:2])[O:3]P(=O)([O-])OP(=O)([O-])O)C(O)C1O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7118,"COC(C1=C([C+:1]=C[B-]2(Cl)OC3=C(C=CC=C3)O2)C=CC=C1)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,6641,"C[Si](C)(C)OCC[O+:1](C1(O[Si](C)(C)C)CCC2=C(C=CC=C2)O1)[Si-:2](C)(C)(C)OS(=O)(=O)C(F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,9174,"CC(=O)O.CC(=O)[O-:1].COC1=CC([CH:2]([H:3])[O:4][I+:5]2(OC(C)=O)OC(=O)C3=C2C=CC=C3)=NC(OC)=N1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3445,"CC[O-:1].COC(=O)C=C(CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4839,"C[CH:1]([H:2])[CH+:3]C1=CC=CC=C1.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5149,"C[C+]=C[Si:1](C)(C)C.C[O:2][Zn-]|(2, 1)"
train,pmechdb_split_0,0,9973,"CO[C:1]1=[CH:2]C=CC([N+](=O)[O-])=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,8600,"C[S+:1](C)[O:2][H:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7863,"COC(N)(C1(C2=CC=CC=C2)CC[NH+](C)CC1)[O+:1](C)[H:2].O=S(=O)([O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4013,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.ClC1=CC([CH:1]=[OH+:2])=CC=C1.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,952,"CCSC[CH:1]=[CH:2][N-:3]C.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2872,"COC1=CC(CCNC(CC2=CC(O)=C(OC)C=C2)=[O:1])=CC=C1.Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,867,"CC(=O)CC(C)(C)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1012,"CCOC(=O)NN(C(OCC)=[O:1])P(OC1CC(=O)N(C)C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7430,"C[CH+]C(C)[Si:1](C)(C)C.O=C(C(F)(F)F)[O-:2].O=C(O)C(F)(F)F|(2, 1)"
train,pmechdb_split_0,0,8769,"O[C+:1]1C=CC=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,224,"C[NH+:1](C)[Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,7740,"CO.NC1([O-:1])CCCCC1CC(=O)C1=CC=C(Cl)C=C1.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7848,"CC(C)(C)O.CC(C)C1=CC=CC(C(C)C)=C1N1C=C[N+](C2=C(C(C)C)C=CC=C2C(C)C)=C1[C-:1](O)[CH:2]=[CH:3]C1=CC=CC=C1.FC(F)(F)[C:4](C1=CC=CC=C1)=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7303,"C[CH+:1][O:2][Cu]|(2, 1)"
train,pmechdb_split_0,0,9314,"CO.ClC1=CC=C([C:1]2=[NH+:2]C3=C(CCCC3)[CH:3]2[H:4])C=C1.N.O.[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6368,"C[CH+:1][CH:2](Br)[H:3].[OH2:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9990,"CC(=O)C1=C[CH:1]=[CH:2]O1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,8249,"CC(=O)[O:1][H:2].CC1=CCC(C2=CC=CC=C2)([OH:3])N1C1CCCCC1N.CO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9427,"CC(=O)[O-].O=C(O)C[NH:1][C:2](CCC(=O)C1=CC=CO1)(C1=CC=CC=C1)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5708,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CC1=CC=CC=C1.CCOC(=O)[C:2]1([H:3])CC(C)(O)[O+:4]=[C:5]1C(F)(F)F|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1279,"C[CH:1]([Cl:2])[Br:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2700,"C1=CC=C(C=CC(C2=CC=CC=C2)[O-:1])C=C1.CC[CH2][Al:2]([CH2]C(C)C)[CH2]C(C)C.[Li+]|(1, 2)"
train,pmechdb_split_0,0,7934,"CO[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,9588,"C1=CC=C(C[NH2:1])C=C1.CC1=CC=C(S(=O)(=O)[O:2][CH3:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9471,"CO.C[NH+]1CCC(C#[N:1])(C2=CC=CC=C2)CC1.O=[S:2]([O-])([O:3][H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,7141,"CC(C)(O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)C1(C)CCCC2=C(C=CC=C2)[C:1]1([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7945,"C1C[N:1]2CCN1CC2.CCO[C:2]([C:3](C[N+]12CCN(CC1)CC2)(C([O-])C1=C(OC)C=CC=C1)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
